US08440651B2
(2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone 118
(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone (88 mg) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to yield 41.5 mg 118 following reverse phase HPLC purification. MS (Q1) 519.2 (M)+

reactant | (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone | 88 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)N2CCC(CC2)C(C)(C)O)N2CCOCC2 | C20H26ClN5O3
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | (2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)C(=O)N2CCC(CC2)C(C)(C)O)N2CCOCC2 | C28H31FN6O3
